US07125865B2
Step 6: Preparation of 1-{4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butyl}dihydropyrimidine-2,4(1H,3H)-dione.
A mixture of 4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butyl methanesulfonate (60 mg, 0.16 mmol), from this Example step 5, Cs2CO3 (206 mg, 0.63 mmol) and 5,6-dihydrouracil (54.2 mg, 0.48 mmol) in dry DMF (1.5 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. Combined organic extracts were washed with water and brine, dried over Na2SO4 and the solvent evaporated in vacuo. The residue was purified by preparative TLC using ethyl acetate to give the title compound.

reactant | 4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butyl methanesulfonate | 0.16 mmol, 60 mg | CS(=O)(=O)OCCCCC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C16H20F3NO4S
reactant | Cs2CO3 | 0.63 mmol, 206 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5,6-dihydrouracil | 0.48 mmol, 54.2 mg | N1C(=O)NC(=O)CC1 | C4H6N2O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-{4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butyl}dihydropyrimidine-2,4(1H,3H)-dione | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)CCCCN2C(NC(CC2)=O)=O | C19H22F3N3O3
